US07361659B2
5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-4-methyl-thiazol-2-yl]-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.19) and 2-amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.3) according to general procedure II. Pale-yellow solid. MS (ISN) 559.0 [(M−H)−]; mp 293-294° C.

reactant | 5-(4-chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C1CC1)N=CC2C(=O)O | C16H12ClN3O2
reactant | 2-amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)N)C | C8H15N3O3S2
product | 5-(4-Chloro-phenyl)-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-4-methyl-thiazol-2-yl]-amide | OCC(C)(C)NS(=O)(=O)C1=C(N=C(S1)NC(=O)C=1C=NN2C1N=C(C=C2C2CC2)C2=CC=C(C=C2)Cl)C | C24H25ClN6O4S2
